** sch_path: /home/ttuser/tt10-FoldedCascode/xschem/ecg1_1.sch
**.subckt ecg1_1 VDD GND VDD VDD GND GND VDD GND VDD GND VDD GND VDD GND VDD GND VDD GND VDD GND VDD GND VDD GND VDD GND VDD GND
*+ VDD GND VDD GND VDD GND VDD GND
*.iopin VDD
*.iopin GND
*.iopin VDD
*.iopin VDD
*.iopin GND
*.iopin GND
*.iopin VDD
*.iopin GND
*.iopin VDD
*.iopin GND
*.iopin VDD
*.iopin GND
*.iopin VDD
*.iopin GND
*.iopin VDD
*.iopin GND
*.iopin VDD
*.iopin GND
*.iopin VDD
*.iopin GND
*.iopin VDD
*.iopin GND
*.iopin VDD
*.iopin GND
*.iopin VDD
*.iopin GND
*.iopin VDD
*.iopin GND
*.iopin VDD
*.iopin GND
*.iopin VDD
*.iopin GND
*.iopin VDD
*.iopin GND
*.iopin VDD
*.iopin GND
V3 VDD GND 1.8
VbiasR1 IN1 net1 0 ac 1 0 sin(0 500u 10 0 0 0)
V2 ref GND 0.9
VbiasR2 IN2 net1 0 ac 1 180 sin(0 500u 10 0 0 180)
R1 net4 out1 250k m=1
R2 net5 out2 250k m=1
R6 net2 out_ref 250k m=1
R8 out net6 100k m=1
C1 out_ref net6 10u m=1
R5 net3 out 250k m=1
R4 out12 net3 10k m=1
R7 out22 net2 10k m=1
R9 net8 A 430k m=1
C2 ref net7 2.45n m=1
R10 net7 net8 430k m=1
C3 outPB net8 2.45n m=1
R11 ref net9 500k m=1
C5 net16 net10 4u m=1
C6 net10 net9 4u m=1
R13 outA net12 500k m=1
R14 net12 net13 10k m=1
R16 out_drl net14 220k m=1
R17 net14 net15 220 m=1
C4 net14 out_drl 100n m=1
C7 GND outPA 100n m=1
R18 outPA net11 100 m=1
R12 net10 net11 500k m=1
XR3 Vcm net4 GND sky130_fd_pr__res_high_po_0p35 L=0.4 mult=1 m=1
XR15 Vcm net5 GND sky130_fd_pr__res_high_po_0p35 L=0.4 mult=1 m=1
R19 net22 net21 302.1k m=1
R20 net18 net22 302.1k m=1
R21 net17 net19 151.05k m=1
C8 net22 net17 20n m=1
C9 net19 net21 10n m=1
C10 net18 net19 10n m=1
R22 net20 outN 100 m=1
R23 ref net20 100k m=1
x1 VDD GND out1 net4 IN1 OFC1_1
x2 VDD GND out2 net5 IN2 OFC1_1
x3 VDD GND out12 out12 out1 OFC1_1
x4 VDD GND out22 out22 out2 OFC1_1
x5 VDD GND out net3 net2 OFC1_1
x6 VDD GND out_ref net6 ref OFC1_1
x7 VDD GND net15 net15 Vcm OFC1_1
x8 VDD GND out_drl net14 ref OFC1_1
x9 VDD GND net13 net13 out OFC1_1
x10 net23 net24 net25 net12 ref OFC1_1
x11 VDD GND A A outA OFC1_1
x12 VDD GND outPB outPB net7 OFC1_1
x13 VDD GND net16 net16 outPB OFC1_1
x14 VDD GND net11 net11 net9 OFC1_1
x15 VDD GND net21 net21 outPA OFC1_1
x16 VDD GND outN outN net18 OFC1_1
x17 VDD GND net17 net17 net20 OFC1_1
VbiasR3 net1 ref 0 ac 1 0 sin(0 100m 50 10u 0 0)
**** begin user architecture code



.option reltol=1e-5
+  abstol=1e-14 savecurrents
.control
  save all
  op
  remzerovec
  write ecg1_1.raw

  set appendwrite
  ac dec 1000 0.01 100Meg
  remzerovec
  write ecg1_1.raw

  tran 100u 200m
  write ecg1_1.raw

  set appendwrite
  noise v(out1) VbiasR1 dec 10 0.05 1e3
  remzerovec
  write ecg1_1.raw
  setplot noise1
  plot inoise_spectrum

.endc




.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/ttuser/pdk/sky130A/libs.tech/ngspice/corners/tt.spice
.include /home/ttuser/pdk/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /home/ttuser/pdk/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /home/ttuser/pdk/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice

**** end user architecture code
**.ends

* expanding   symbol:  OFC1_1.sym # of pins=5
** sym_path: /home/ttuser/tt10-FoldedCascode/xschem/OFC1_1.sym
** sch_path: /home/ttuser/tt10-FoldedCascode/xschem/OFC1_1.sch
.subckt OFC1_1 VDD GND OUT IN- IN+
*.iopin VDD
*.iopin GND
*.ipin IN+
*.ipin IN-
*.opin OUT
XM11 S Vb VDD VDD sky130_fd_pr__pfet_01v8_lvt L=1 W=85 nf=10 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=5 m=5
XM1 D1 IN+ S S sky130_fd_pr__pfet_01v8_lvt L=10 W=50 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM2 D2 IN- S S sky130_fd_pr__pfet_01v8_lvt L=10 W=50 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM3 OUT Vc1 D2 GND sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 D2 Vc GND GND sky130_fd_pr__nfet_01v8_lvt L=1 W=8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 D1 Vc GND GND sky130_fd_pr__nfet_01v8_lvt L=1 W=8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 G Vc1 D1 GND sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XR2 Vb VDD GND sky130_fd_pr__res_xhigh_po_0p35 L=5 mult=1 m=1
XR3 GND Vb GND sky130_fd_pr__res_xhigh_po_0p35 L=13.2 mult=1 m=1
XR1 Vc VDD GND sky130_fd_pr__res_xhigh_po_0p35 L=5 mult=1 m=1
XR4 GND Vc GND sky130_fd_pr__res_xhigh_po_0p35 L=3.07 mult=1 m=1
XR5 Vc1 VDD GND sky130_fd_pr__res_xhigh_po_0p35 L=5 mult=1 m=1
XR6 GND Vc1 GND sky130_fd_pr__res_xhigh_po_0p35 L=13.2 mult=1 m=1
XR7 Vc2 VDD GND sky130_fd_pr__res_xhigh_po_0p35 L=5 mult=1 m=1
XR8 GND Vc2 GND sky130_fd_pr__res_xhigh_po_0p35 L=1.4 mult=1 m=1
XM7 G Vc2 D9 VDD sky130_fd_pr__pfet_01v8_lvt L=1.2 W=8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 D9 G VDD VDD sky130_fd_pr__pfet_01v8_lvt L=1.2 W=5.9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 D10 G VDD VDD sky130_fd_pr__pfet_01v8_lvt L=1.2 W=5.9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM10 OUT Vc2 D10 VDD sky130_fd_pr__pfet_01v8_lvt L=1.2 W=8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XC1 OUT D1 sky130_fd_pr__cap_mim_m3_1 W=50 L=20 MF=1 m=1
.ends

.GLOBAL GND
.end
